US05723450
2-Ethyl-3-bromo-4-(cis-4-phenylcyclohexylamino)pyridine
3.48 g (20 mmol) of 4-phenylcyclohexanone in 3.3 ml of ethanol are treated with 3.3 ml of triethyl orthoformate and 2 drops of boron trifluoride etherate and warmed at 50° C. for 30 min. After addition of 2.01 g (10mmol) of 2-ethyl-3-bromo-4-aminopyridine the reaction mixture is heated at 135°-140° C. for 3.5-4 hours with simultaneous removal of the low-boiling components by distillation. It is then cooled, 40 ml of dichloroethane, 3.18 g (15 mmol) of sodium triacetoxyborohydride and 0.57 ml (10 mmol) of glacial acetic acid are added, and it is heated at 50°-60° C. for 3 hours; the reaction mixture is then cooled, saturated aqueous sodium hydrogen carbonate solution is added, the 1,2-dichloroethane is evaporated and the reaction product is extracted from the aqueous phase using ethyl acetate. Purification is carried out by column chromatography. Yield: 1.46 g (41%); RF =0.59 (ethyl acetate)

reactant | 4-phenylcyclohexanone | 20 mmol, 3.48 g | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | triethyl orthoformate | 3.3 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | 2-ethyl-3-bromo-4-aminopyridine | 10mmol, 2.01 g | C(C)C1=NC=CC(=C1Br)N | C7H9BrN2
reactant | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
reactant | sodium triacetoxyborohydride | 15 mmol, 3.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 10 mmol, 0.57 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 3.3 ml | C(C)O | C2H6O
catalyst | boron trifluoride etherate | 2 drops | B(F)(F)F.CCOCC
product | 2-Ethyl-3-bromo-4-(cis-4-phenylcyclohexylamino)pyridine | C(C)C1=NC=CC(=C1Br)N[C@@H]1CC[C@@H](CC1)C1=CC=CC=C1 | C19H23BrN2
